US09382188B2
step 8) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-((1-methylcyclopentyl)methyl)biphenyl-4-yl)oxy)methyl)phenyl)propanoate
To a solution of ethyl 3-(3-(((2-(chloro(1-methylcyclopentyl)methyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate (92 mg) and 2,2-azobisbutyronitrile (3 mg) in toluene (3 mL) was added tributyltin hydride (0.13 mL), and the mixture was stirred at 100° C. for 2 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (32 mg) as a colorless oil.

reactant | ethyl 3-(3-(((2-(chloro(1-methylcyclopentyl)methyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 92 mg | ClC(C1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F)C1(CCCC1)C | C35H40ClFO4
reactant | tributyltin hydride | 0.13 mL | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-((1-methylcyclopentyl)methyl)biphenyl-4-yl)oxy)methyl)phenyl)propanoate | 32 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC1(CCCC1)C | C35H41FO4
